US04999381
A solution of sodium hydroxide (4.00 g) and tetrabutylammonium bromide (0.10 g) in water (10 ml) was added to a suspension of 2-chloro-4-(3'-chloro-2'2'-dimethylpropionamido)-N,N-dimethylbenzamide (1.00 g) in methylene chloride (10 ml) and the two-phase system stirred at room temperature for 1 hour. Water (10 ml) and methylene chloride (10 ml) were then added and the whole methylene chloride layer washed with brine, dried and evaporated to give a pale yellow solid. This was recrystallised from ethyl acetate/hexane to give 1-[3'-chloro-4'-(N,N-dimethylcarbamoyl) phenyl]-3,3-dimethylazetidin-2-one as a white crystalline solid (0.516 g), m.p. 122°-123° C.

reactant | sodium hydroxide | 4.00 g | [OH-].[Na+]
reactant | 2-chloro-4-(3'-chloro-2'2'-dimethylpropionamido)-N,N-dimethylbenzamide | 1.00 g | ClC1=C(C(=O)N(C)C)C=CC(=C1)NC(C(CCl)(C)C)=O | C14H18Cl2N2O2
catalyst | tetrabutylammonium bromide | 0.10 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 10 ml | O | H2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | Water | 10 ml | O | H2O
product | 1-[3'-chloro-4'-(N,N-dimethylcarbamoyl) phenyl]-3,3-dimethylazetidin-2-one | 0.516 g | ClC=1C=C(C=CC1C(N(C)C)=O)N1C(C(C1)(C)C)=O | C14H17ClN2O2
